*400V 10A 
.SUBCKT KU202N 1 2 3 it=300mA
*    TERMINALS:  A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    150MEG
RR  1 4    100MEG
RGK 6 5   {0.6/it}
RG  2 6     15
RK  3 5    0.15
Dcb 6 4 dz 
.model dz d Vfwd=3 Ron=1 Roff=1G  Rrev=100m Vrev=420 Revepsilon=1
.MODEL POUT PNP (IS=10P BF=1 CJE=1.07N TF=3U BVbe=420 Ibvbe=1m)
.MODEL NOUT NPN (IS=10P BF=100 RC=0.533 CJE=1N CJC=7.5N TF=0.2U
+ BVbe=10 Ibvbe=1m VAF=100)
.ENDS KU202N
